US07378527B2
A 2-L, three-necked flask equipped with mechanical stirrer, thermometer and condenser was charged with 4-chloro-3-pyridinesulfonamide I (300.0 g, 1.56 mol), m-toluidine (200.3 g, 1.87 mol) and 1200 mL n-butanol. The reaction mixture was heated for 2-4 hours and then cooled to room temperature. The solid was filtered and washed with n-butanol. After drying, 4-[(3-methylphenyl)amino]-3-pyridinesulfonamide hydrochloride (457.1 g, 98%) was obtained as pale-yellow solid having a purity of 99.96% by HPLC.

reactant | 4-chloro-3-pyridinesulfonamide | ClC1=C(C=NC=C1)S(=O)(=O)N | C5H5ClN2O2S
reactant | m-toluidine | 1.87 mol, 200.3 g | NC1=CC(=CC=C1)C | C7H9N
solvent | n-butanol | 1200 mL | C(CCC)O | C4H10O
product | 4-[(3-methylphenyl)amino]-3-pyridinesulfonamide hydrochloride | 457.1 g, 98% | Cl.CC=1C=C(C=CC1)NC1=C(C=NC=C1)S(=O)(=O)N | InChI=1S/C12H13N3O2S.ClH/c1-9-3-2-4-10(7-9)15-11-5-6-14-8-12(11)18(13,16)17;/h2-8H,1H3,(H,14,15)(H2,13,16,17);1H
